US08445424B2
As described in Example 3 for preparation of 5-isopropyl-2,2-dimethylcyclopentanone, from 2,2-dimethylcyclohexanone (12.6 g, 110 mmol), lithium diisopropylamide solution (2 M in THF, 55.0 ml, 110 mmol), DMPU (14.1 g, 110 mmol) and 2-iodopropane (25.5 g, 150 mmol), 6-isopropyl-2,2-dimethylcyclohexanone (13.1 g, 78%) was obtained after standard workup and purification by silica gel FC (pentane/Et2O, 6:4, Rf=0.26).

reactant | 5-isopropyl-2,2-dimethylcyclopentanone | C(C)(C)C1CCC(C1=O)(C)C | C10H18O
reactant | 2,2-dimethylcyclohexanone | 110 mmol, 12.6 g | CC1(C(CCCC1)=O)C | C8H14O
reactant | lithium diisopropylamide | 110 mmol, 2 M, 55.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | DMPU | 110 mmol, 14.1 g | CN1CCCN(C1=O)C | C6H12N2O
reactant | 2-iodopropane | 150 mmol, 25.5 g | IC(C)C | C3H7I
product | 6-isopropyl-2,2-dimethylcyclohexanone | 13.1 g, 78% | C(C)(C)C1CCCC(C1=O)(C)C | C11H20O
